US05674467
a) 5,10,15,20-Tetrakis-[3-(3-phthalimidopropyloxy)-phenyl]-porphyrin
7.56 g (11.14 mmol) of 5,10,15,20-tetrakis-(3-hydroxyphenyl)-porphyrin [CARN 22112-79-4] is dissolved in 300 ml of anhydrous N,N-dimethylformamide and mixed with 30.79 g (222.8 mmol) of potassium carbonate and 7.40 g (44.55 mmol) of potassium iodide. 59.72 g (222.8 mmol) of N-(3-bromopropyl)-phthalimide is added to the suspension that is stirred under argon at 21° C. After 24 hours of stirring with exclusion of light, the suspension is filtered, the filtrate is largely concentrated by evaporation in a vacuum, mixed with dichloromethane and shaken out twice with water. The organic phase is dried on anhydrous magnesium sulfate, filtered and concentrated by evaporation, the residue is chromatographed on silica gel 60 (Merck) with dichloromethane/methanol. The product fractions are concentrated by evaporation, taken up in a little dichloromethane and the title compound is precipitated by the addition of diethyl ether.

reactant | 5,10,15,20-tetrakis-(3-hydroxyphenyl)-porphyrin | 11.14 mmol, 7.56 g | OC=1C=C(C=CC1)C=1C2=CC=C(N2)C(=C2C=CC(C(=C3C=CC(=C(C=4C=CC1N4)C4=CC(=CC=C4)O)N3)C3=CC(=CC=C3)O)=N2)C2=CC(=CC=C2)O | C44H30N4O4
reactant | potassium carbonate | 222.8 mmol, 30.79 g | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | 44.55 mmol, 7.40 g | [I-].[K+]
reactant | N-(3-bromopropyl)-phthalimide | 222.8 mmol, 59.72 g | BrCCCN1C(C=2C(C1=O)=CC=CC2)=O | C11H10BrNO2
solvent | N,N-dimethylformamide | 300 ml | CN(C=O)C | C3H7NO
product | 5,10,15,20-Tetrakis-[3-(3-phthalimidopropyloxy)-phenyl]-porphyrin | C1(C=2C(C(N1CCCOC=1C=C(C=CC1)C=1C3=CC=C(N3)C(=C3C=CC(C(=C4C=CC(=C(C=5C=CC1N5)C5=CC(=CC=C5)OCCCN5C(C=1C(C5=O)=CC=CC1)=O)N4)C4=CC(=CC=C4)OCCCN4C(C=1C(C4=O)=CC=CC1)=O)=N3)C3=CC(=CC=C3)OCCCN3C(C=1C(C3=O)=CC=CC1)=O)=O)=CC=CC2)=O | C88H66N8O12
